US07951550B2
a. 2-cyano-6-benzyloxymethyl quinoline
To a solution of 2-cyano-6-hydroxyquinoline (100 mg) in 10 mL of acetone was added potassium carbonate (122 mg). After stirring at RT for three minutes, the solution was put on ice. Benzyl chloromethyl ether (122 μL) was added through a needle and the resultant solution was stirred on ice for 2 hours. The solvent was then removed under vacuum and the residue was purified by flash chromatography with dichloromethane. 157 mg was obtained.

reactant | 2-cyano-6-hydroxyquinoline | 100 mg | C(#N)C1=NC2=CC=C(C=C2C=C1)O | C10H6N2O
reactant | potassium carbonate | 122 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl chloromethyl ether | 122 μL | ClCOCC1=CC=CC=C1 | C8H9ClO
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 2-cyano-6-benzyloxymethyl quinoline | C(#N)C1=NC2=CC=C(C=C2C=C1)COCC1=CC=CC=C1 | C18H14N2O
